* C:\TeamPhantom\BMS_Links\bms-link-hw\Simulation\LTSpice\thermistor.asc
R1 N001 0 1k
R§Therm1 Vcc N001 R = {10000*exp(-3380*( 1/(25+273.15) - 1/( (time + 273.15) )))}
V§Regulator Vcc 0 5
D1 N001 common {Diode}
R2 common 0 100k
.model D D
.lib C:\Users\drena\AppData\Local\LTspice\lib\cmp\standard.dio
.model 1 AKO: 1N4148
.model 2 AKO: 1N914
.model 3 AKO: MMSD4148
.model 4 AKO: 1N5817
.model 5 AKO: 1N5818
.model 6 AKO: 1N5819
.model 7 AKO: BAT54
.STEP Param Diode list 1 2 3 3 4 5 6 7
.tran 70
.backanno
.end
